US07186729B2
Step 2: 3-[Carbamoylmethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-(carbamoylmethyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.49 g, 2.03 mmol) in dichloroethane (5.0 mL) was added 4-chlorobenzaldehyde 0.34 g, 2.44 mmol), sodium triacetoxy borohydride (0.86 g, 4.06 mmol) and catalytic acetic acid and the resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated, dissolved in dichloromethane and washed with 10% aqueous sodium bicarbonate. The combined organics were washed with brine and dried over sodium sulfate. The crude product was purified on silica using ethyl acetate. 1H-NMR (CDCl3) δ: 1.50 (9H, s), 1.60–1.80 (2H, m), 2.10 (1H, m), 3.10–3.60 (8H, m), 5.65 (1H, br, s), 6.90 (1H, br, s) 7.20–7.40 (4H, m). ESI-MS m/z: 367(M+1), UV retention time: 1.94 min.

reactant | 3-(carbamoylmethyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.03 mmol, 0.49 g | C(C)(C)(C)OC(=O)N1CC(CC1)NCC(N)=O | C11H21N3O3
reactant | 4-chlorobenzaldehyde | 2.44 mmol, 0.34 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium triacetoxy borohydride | 4.06 mmol, 0.86 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 5.0 mL | ClC(C)Cl | C2H4Cl2
product | 3-[Carbamoylmethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=CC=C(C=C1)Cl)CC(N)=O | C18H26ClN3O3
